US05294631
(i) 3-[(2-chlorophenyl)methyl]-amino-4-nitrobenzoic acid
The procedure of Example 1(ii) was followed. From 6.25 g (33.8 mmol) of 3-fluoro-4-nitrobenzoic acid (mp 168°-169° C.; prepared by the method of F. C. Schmelkes and M. Rubin, J.A.C.S., 66, 1631 (1944), by permanganate oxidation of 3-fluoro-4-nitrotoluene) 11.96 g (84.5 mmol) of 2-chlorobenzylamine and 100 mL of toluene refluxed for 24 hours was obtained, after workup and crystallization from methanol, 8.4 g (82%) of 3-[(2-chlorophenyl)methyl]-amino-4-nitrobenzoic acid; mp 221°-223° C.

reactant | 3-fluoro-4-nitrobenzoic acid | 33.8 mmol, 6.25 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | permanganate | [Mn](=O)(=O)(=O)[O-]
reactant | 3-fluoro-4-nitrotoluene | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | 2-chlorobenzylamine | 84.5 mmol, 11.96 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(2-chlorophenyl)methyl]-amino-4-nitrobenzoic acid | ClC1=C(C=CC=C1)CC=1C(=C(C(=O)O)C=CC1[N+](=O)[O-])N | C14H11ClN2O4
